US09079853B2
3-(3,4-dimethoxybenzyl)-1-isopentyl-2-oxoindolin-3-yl benzoate
This compound was made in an analogous fashion to 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate using 1-isopentyl-2-oxoindolin-3-yl benzoate and 4-(bromomethyl)-1,2-dimethoxybenzene. 1H-NMR δ 8.06 (d, 2H), 7.55 (t, 1H), 7.43 (t, 2H), 7.29 (t, 1H), 7.13 (d, 1H), 7.01 (t, 1H), 6.69 (t, 2H), 6.61 (d, 1H) 6.34 (s, 1H), 3.82 (s, 3H) 3.63 (m, 4H), 3.49 (m, 2H), 3.28 (d, 1H), 1.51 (m, 1H), 1.51 (q, 2H), 0.92 (dd, 6H). Calculated mass for C29H31NO5, 473.22. Observed 496.2 (M+Na).

reactant | 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CC)=O)CC1=CC(=C(C(=C1)OC)OC)OC | C28H29NO6
reactant | 1-isopentyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=CC=C12)CCC(C)C)=O | C20H21NO3
reactant | 4-(bromomethyl)-1,2-dimethoxybenzene | BrCC1=CC(=C(C=C1)OC)OC | C9H11BrO2
product | 3-(3,4-dimethoxybenzyl)-1-isopentyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=CC=C12)CCC(C)C)=O)CC1=CC(=C(C=C1)OC)OC | C29H31NO5
